data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3653,4173,[CH3:10][O:11][C:12](=[O:13])[C:14]([CH3:15])=[NH+:16][CH-:17][C:18]#[N:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:17]([C:18]#[N:19])[NH:16][C:14]1([C:12]([O:11][CH3:10])=[O:13])[CH3:15],water,298.15,21.42435578882985,-11.316448188806168
174,191,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][CH:10]=[NH+:11][C-:12]([C:13]([CH3:14])=[O:15])[C:16]([CH3:17])=[O:18]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[C:12]([C:13]([CH3:14])=[O:15])([C:16]([CH3:17])=[O:18])[NH:11][CH:10]1[CH3:9],water,298.15,11.875437662969125,-37.829371163097456
4410,5042,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[C:11](=[O+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[C:20](=[O:21])[O:22][CH3:23]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:20](=[O:21])[O:22][CH3:23])[O:12][N:13]1[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,30.914207189912734,-30.40260825973093
3582,4088,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][C:8](=[O:9])[CH:10]=[O+:11][C-:12]([CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:10]([C:8]([CH3:7])=[O:9])[O:11][C:12]1([CH3:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,17.526729250089353,-37.47642700211029
822,891,[CH3:12][O:13][C:14](=[O:15])[CH-:16][N+:17]([CH3:18])=[C:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][O:2][C:3]1=[C:4]([O:5][CH3:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3]12[C:4]([O:5][CH3:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[CH:16]([C:14]([O:13][CH3:12])=[O:15])[N:17]([CH3:18])[C:19]2([C:20]#[N:21])[C:22]#[N:23],water,298.15,15.240060669041064,-20.73972130800447
4048,4637,[CH3:10][O:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([CH3:19])[n+:20]1[CH3:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:18]2([CH3:19])[C:16](=[O:17])[O:15][C:14]1([C:12]([O:11][CH3:10])=[O:13])[N:20]2[CH3:21],water,298.15,26.44229654803928,-2.199646994284749
1778,1969,[CH3:18][O:19][C:20](=[O:21])[C:22]#[N+:23][C-:24]([CH3:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]3[CH:15]([CH:16]1[O:17]2)[C:22]([C:20]([O:19][CH3:18])=[O:21])=[N:23][C:24]3([CH3:25])[C:26](=[O:27])[O:28][CH3:29],water,298.15,15.399982288419949,-59.89444861222815
455,497,[CH3:11][CH:12]=[NH+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[CH:12]([CH3:11])[NH:13][N:14]2[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,14.117935336055783,-34.381534209613484
3884,4444,[CH3:10][NH:11][C:12](=[O:13])[c-:14]1[nH+:15][c:16]([CH3:17])[o:18][c:19]1=[O:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]2([CH3:17])[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:19](=[O:20])[O:18]2,water,298.15,31.43346178805057,5.318105233671285
1656,1828,[CH3:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19](-[c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[n+:26]1[CH3:27].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:15]1([C:13]([CH3:12])=[O:14])[O:16][C:17](=[O:18])[C:19]2([c:20]2[cH:21][cH:22][cH:23][cH:24][cH:25]2)[N:26]1[CH3:27],water,298.15,28.55036161927827,9.794007062615291
3971,4544,[CH3:10][C:11](=[O:12])[CH:13]=[NH+:14][N-:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[N:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[NH:14][CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,27.307877666016783,-5.892619708462585
746,808,[CH3:11][NH:12][C:13](=[O:14])[c:15]1[o:16][c:17](=[O:18])[c-:19]([C:20]([CH3:21])=[O:22])[o+:23]1.[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2](=[O:3])[C:4]1=[CH:5][CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:19]1([C:20]([CH3:21])=[O:22])[C:17](=[O:18])[O:16][C:15]3([C:13]([NH:12][CH3:11])=[O:14])[O:23]1,water,298.15,12.348530475690524,-36.58249673998449
4049,4638,[CH3:10][O:11][C:12](=[O:13])[c:14]1[o:15][c:16](=[O:17])[c-:18]([CH3:19])[n+:20]1[CH3:21].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]2([C:12]([O:11][CH3:10])=[O:13])[O:15][C:16](=[O:17])[C:18]1([CH3:19])[N:20]2[CH3:21],water,298.15,27.85405320963233,2.1582644160144744
